US06043248
5,6,7,8-Tetrahydroisoquinoline-N-oxide (12.7 g, 85 mmole) is dissolved in 250 ml dichloromethane in a 500 ml one neck round bottom flask under nitrogen. The solution is treated with trimethyloxonium tetrafluoroborate (12.6 g, 85 mmole) and the reaction is stirred 1 h at room temperature. The volatiles are removed in vacuo to a pale oily residue. The residue is dissolved in 225 ml methanol and the solution is heated to reflux. Ammonium persulfate (8 g, 34 mmole), in 34 ml water, is added rapidly dropwise to the refluxing mixture. The reaction is stirred 30 min and is treated with a second lot of ammonium persulfate (8 g, 34 mmole) in 34 ml water. The reaction is stirred an additional hour at reflux, is cooled, and the bulk of the methanol is removed in vacuo. The residue is poured into 100 ml ice containing 100 ml 10% hydrochloric acid. The mixture is washed with 2×50 ml ethyl acetate, the pH is adjusted to 9 with 45% potassium hydroxide, and the mixture is extracted with 4×50 ml dichloromethane. The haloorganics are dried over potassium carbonate and were concentrated in vacuo to a brown solid. The crude material is chromatographed over 350 g silica gel (230-400 mesh), eluting with 3 l 20% acetone/chloroform+0.6% conc. ammonium hydroxide followed by 1 l 32% acetone/chloroform+0.6% conc. ammonium hydroxide, while collecting 50 ml fractions. Fractions 19-27 are combined and concentrated to afford 4.3 g (31%) of 1-hydroxymethyl-5,6,7,8-tetrahydroisoquinoline.

reactant | 5,6,7,8-Tetrahydroisoquinoline-N-oxide | 85 mmole, 12.7 g | C1=[N+](C=CC=2CCCCC12)[O-] | C9H11NO
reactant | trimethyloxonium tetrafluoroborate | 85 mmole, 12.6 g | F[B-](F)(F)F.C[O+](C)C
reactant | Ammonium persulfate | 34 mmole, 8 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonium persulfate | 34 mmole, 8 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | water | 34 ml | O | H2O
solvent | water | 34 ml | O | H2O
product | 1-hydroxymethyl-5,6,7,8-tetrahydroisoquinoline | 4.3 g, 31% | OCC1=NC=CC=2CCCCC12 | C10H13NO
